data/mechanisms/records/IMS8-EQ8.1f.json
{"mechanism_id": "IMS8-EQ8.1f", "species": [{"species_id": "pent_1_ene_radical_cation", "mapped_smiles": "[CH2:1][CH+:2][CH2:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_pentyl_ion", "mapped_smiles": "[CH3:1][CH+:2][CH2:3][CH2:4][CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pent_1_ene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_pentyl_ion"]}], "steps": [{"step_id": "step_h_shift_1_5", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_shift_1_5", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.75, "curator_note": "Eq 8.1, lower-left double-arrow equilibrium labeled 'rH' with delta(dHf) = 0.3 eV, connecting the middle structure (pent-1-ene molecular ion, (30%), dHf/IE 9.3(9.5)) and the bottom structure -- a distonic radical cation explicitly drawn with the radical (.) on one terminal carbon, the charge (+) on the carbon bearing a methyl at the other end, and the transferring H flagged (dHf 9.6). This is an isomerization, not a fragmentation: a 1,5-hydrogen shift converts the alkene radical cation into the distonic ion .CH2-CH2-CH2-CH(+)-CH3. Book draws 0 curved arcs on this page. A faithful 1,5-H ATOM transfer needs 3 fishhooks; the migrating H cannot be atom-mapped (RDKit folds mapped explicit H into implicit valence), so only the surviving heavy-atom change is encoded -- the odd electron relocating from the terminal C1 to the terminal C5 (single fishhook atom(1)->atom(5)); the H migrates the opposite way (C5->C1) and is written implicitly in the SMILES (C1: .CH2 -> CH3; C5: CH3 -> .CH2). LOCALIZATION (convention C): pent-1-ene is drawn by McLafferty as an intact alkene with a delocalized (+.); encoded as the opened distonic form with the odd electron on the terminal C1 (so it can abstract the far H) and the charge on C2. The distonic PRODUCT matches the book's bottom drawing directly. Page draws an equilibrium (reversible)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
